### PR TITLE
[Merged by Bors] - feat(RingTheory/RootsOfUnity): roots of unity are roots of `X ^ k - 1`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/RootsOfUnity/Basic.lean [hunk 1]
```diff
@@ -185,12 +185,22 @@ theorem Units.val_set_image_rootsOfUnity_one : ((↑) : Rˣ → R) '' (rootsOfUn
...
 open Set in
-theorem Units.val_set_image_rootsOfUnity_two [CommRing R] [NoZeroDivisors R] :
+theorem Units.val_set_image_rootsOfUnity_two [NoZeroDivisors R] :
     ((↑) : Rˣ → R) '' (rootsOfUnity 2 R) = {1, -1} := by
   ext x
   simp
 
+theorem mem_rootsOfUnity_iff_isRoot (k : ℕ) (ζ : Rˣ) :
+    ζ ∈ rootsOfUnity k R ↔ (X ^ k - 1 : R[X]).IsRoot ζ := by
+  simp only [mem_rootsOfUnity', IsRoot, eval_sub, eval_pow, eval_X, eval_one, sub_eq_zero]
```
Comment (artie2000) [inline Mathlib/RingTheory/RootsOfUnity/Basic.lean]:
```suggestion
  simp [-mem_rootsOfUnity, mem_rootsOfUnity', sub_eq_zero]
```
this is more robust

**Review by artie2000 — CHANGES_REQUESTED** [review]
just one small thing

**Review by artie2000 — APPROVED** [review]

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 2]
```diff
@@ -424,6 +431,10 @@ theorem geom_sum_eq_zero [IsDomain R] {ζ : R} (hζ : IsPrimitiveRoot ζ k) (hk
   refine eq_zero_of_ne_zero_of_mul_left_eq_zero (sub_ne_zero_of_ne (hζ.ne_one hk).symm) ?_
   rw [mul_neg_geom_sum, hζ.pow_eq_one, sub_self]
 
+theorem isRoot_geom_sum [IsDomain R] {ζ : R} (hζ : IsPrimitiveRoot ζ k) (hk : 1 < k) :
+    ∑ i ∈ range k, X ^ i |>.IsRoot ζ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
    (∑ i ∈ range k, X ^ i).IsRoot ζ := by
```
This notation is just confusing.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
